US05332739
Synthesis of 1,3-dimethyl-6-[4-(3-[3,4-dichlorophenoxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride (Compound 99)
The same treatment as in Example 3 was effected except that 4-chlorophenol was replaced with 3,4-dichlorophenol, thereby obtaining 10.5 g of the crystals of 1,3-dimethyl-6-[4-(3-[3,4-dichlorophenoxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.

reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 3,4-dichlorophenol | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 1,3-dimethyl-6-[4-(3-[3,4-dichlorophenoxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione | CN1C(N(C(C=C1N1CCN(CC1)CCCOC1=CC(=C(C=C1)Cl)Cl)=O)C)=O | C19H24Cl2N4O3
product | 1,3-dimethyl-6-[4-(3-[3,4-dichlorophenoxy]propyl)piperazin-1-yl]-2,4(1H,3H)-pyrimidinedione.hydrochloride | 10.5 g | Cl.CN1C(N(C(C=C1N1CCN(CC1)CCCOC1=CC(=C(C=C1)Cl)Cl)=O)C)=O | InChI=1S/C19H24Cl2N4O3.ClH/c1-22-17(13-18(26)23(2)19(22)27)25-9-7-24(8-10-25)6-3-11-28-14-4-5-15(20)16(21)12-14;/h4-5,12-13H,3,6-11H2,1-2H3;1H
